US08623877B2
7-Bromo-1,2,4,5-tetrahydro-benzo[d]azepine-3-carboxylic acid methyl ester
Methyl chloroformate (444 mg, 4.70 mmol) was added to a 0° C. mixture of 7-bromo-2,3,4,5-tetrahydro-1H-benzo[d]azepine (950 mg, 3.82 mmol) and triethylamine (915 mg, 9.04 mmol) in 19 mL of dichloromethane. The resulting solution was stirred at 0° C. for 2 h. Water was added, the layers were separated and the aqueous phase was washed with dichloromethane, and the combined organic layers were washed with brine, dried over magnesium sulfate, filtered and concentrated to leave 1.07 g of an oil. This material was combined with 52 mg from an earlier experiment and purified by column chromatography on silica gel (24 g SiO2, Analogix column) eluting @ 30 mL/min with 1:1 ethyl acetate/heptane. 763 mg of product was obtained.

reactant | Methyl chloroformate | 4.70 mmol, 444 mg | ClC(=O)OC | C2H3ClO2
reactant | 7-bromo-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 3.82 mmol, 950 mg | BrC1=CC2=C(CCNCC2)C=C1 | C10H12BrN
reactant | triethylamine | 9.04 mmol, 915 mg | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | dichloromethane | 19 mL | ClCCl | CH2Cl2
product | 7-Bromo-1,2,4,5-tetrahydro-benzo[d]azepine-3-carboxylic acid methyl ester | 1.07 g | COC(=O)N1CCC2=C(CC1)C=C(C=C2)Br | C12H14BrNO2
